US07608629B2
Preparation 74. Ethyl-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-amine
Add LiAlH4 (108 mg, 2.85 mmol) to a solution of N-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-acetamide (preparation 73, 238 mg, 0.95 mmol) in THF (10 mL) and heat at reflux for 3 days. Quench the reaction with water, add 1N NaOH and water, stir for 30 min. Extract with methylene dichloride three times, combine the organic layers, dry over Na2SO4, filter and concentrate to give a residue. Chromatography (silica gel) eluting with 4% 2M NH3-methanol in methylene dichloride provides 110 mg (49%) of the title compound as a colorless oil: mass spectrum (ion spray): m/z=236.0 (M+1); 1H NMR (CDCl3, ppm): 7.34 (t, 1H), 6.00 (d, 1H), 5.90 (d, 1H), 4.95 (m, 1H), 4.30 (m, 1H), 3.26 (m, 2H), 2.73 (m, 2H), 2.31 (s, 3H), 2.29 (m, 2H), 2.02 (m, 2H), 1.84 (m, 2H), 1.25 (t, 3H).

reactant | LiAlH4 | 2.85 mmol, 108 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-acetamide | 0.95 mmol, 238 mg | CN1CCC(CC1)OC1=CC=CC(=N1)NC(C)=O | C13H19N3O2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-amine | 110 mg, 49% | C(C)NC1=NC(=CC=C1)OC1CCN(CC1)C | C13H21N3O
